US08703805B2
PPh3 (4.36 g, 16.62 mmol) was added at 0° C. to a stirred solution of [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]methanol (6.15 g, 13.85 mmol) in dry DCM. After 30 min, NBS (2.72 g, 15.28 mmol) was added portionwise at 0° C., and the mixture was stirred at it overnight. The solvent was removed in vacuo, and the crude product was purified by flash chromatography (0-50% EtOAc/hexanes) to afford 3-bromomethyl-1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-thiophen-2-yl]-1H-pyrazole as a pale-yellow solid (3.6 g, 54%).

reactant | PPh3 | 16.62 mmol, 4.36 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | [1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazol-3-yl]methanol | 13.85 mmol, 6.15 g | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)CO | C21H17ClN2O3S2
reactant | NBS | 15.28 mmol, 2.72 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-bromomethyl-1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-thiophen-2-yl]-1H-pyrazole | 3.6 g, 54% | BrCC1=NN(C(=C1)C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C1=C(C=CC=C1)Cl | C21H16BrClN2O2S2
